US04808614
1-(5-fluoro-2,4-dioxo-1H,3H-pyrimidin-1-yl)-2-desoxy-2,2-difluororibose
A solution of 1.1 g. of 3,5-bis(t-butyldimethylsilyloxy)-1-methanesulfonyloxy-2-desoxy-2,2difluororibose, 0.83 g. of 5-fluoro-2,4-bis(trimethylsilyloxy)pyrimidine, and 0.655 g. of trifluoromethanesulfonyloxytrimethylsilane in 20 ml. of methylene chloride was refluxed for approximately 17 hours under nitrogen. The reaction mixture was cooled to room temperature and 3 ml. of methanol was added thereto. The resulting solution was stirred for approximately 30 minutes at room temperature and the precipitated solid was collected by filtration. The filtrate was evaporated to dryness under vacuum at 50° and the residue was dissolved in 15 ml. of methylene chloride saturated with anhydrous hydrogen bromide. The resulting suspension was stirred for approximately 30 minutes and the volatiles were removed in vacuo at 45° . The residue was dissolved in 15 ml. of water and the aqueous solution was extracted one time with 10 ml. of ethyl acetate. The aqueous layer was neutralized with sodium carbonate to a pH of approximately 7 and the solution was evaporated to dryness in vacuo at 50°. The residue was dissolved in about 6 ml. of water and the resulting solution was chromatographed in 2 ml. portions on a Whatman ODS-3 50 cm reverse-phase column using water as the eluent to provide 30 mg. of 1-(5-fluoro-2,4-dioxo-1H,3H-pyrimidin-1-yl)-2-desoxy-2,2-difluorori (CD3OD, 90 MHz) δ 3.63-4.6 (m, 4H), 4.79 (s, 3H), 6.04 (t, J=7 Hz, 1H), 8.07 (d, J=6 Hz, 1H); mass spec. m/e=282 =p.

reactant | 3,5-bis(t-butyldimethylsilyloxy)-1-methanesulfonyloxy-2-desoxy-2,2difluororibose | [Si](C)(C)(C(C)(C)C)O[C@@](C(C(=O)OS(=O)(=O)C)(F)F)(O)[C@H](O)C(O)O[Si](C)(C)C(C)(C)C | C18H38F2O9SSi2
reactant | 5-fluoro-2,4-bis(trimethylsilyloxy)pyrimidine | FC=1C(=NC(=NC1)O[Si](C)(C)C)O[Si](C)(C)C | C10H19FN2O2Si2
reactant | trifluoromethanesulfonyloxytrimethylsilane | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-(5-fluoro-2,4-dioxo-1H,3H-pyrimidin-1-yl)-2-desoxy-2,2-difluororibose | FC=1C(NC(N(C1)C(=O)C([C@H](O)[C@H](O)CO)(F)F)=O)=O | C9H9F3N2O6
